US08211919B2
To a solution of tert-butyl {(1S)-1-benzyl-2-oxo-2-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-indol-1-yl]ethyl}carbamate (672 mg) and 4-chloro-2-pyrimidinamine (265 mg) in 1,4-dioxane (10 mL) were added 2M sodium carbonate aqueous solution (2.0 mL) and tetrakis(triphenylphosphine) palladium (16 mg) and the mixture was refluxed for 3 hours under nitrogen. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel to afford tert-butyl{(1S)-2-[5-(2-aminopyrimidine-4-yl)-2,3-dihydro-1H-indol-1-yl ]-1-benzyl-2-oxoethyl}carbamate (507 mg) as a powder.

reactant | tert-butyl {(1S)-1-benzyl-2-oxo-2-[5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1H-indol-1-yl]ethyl}carbamate | 672 mg | C(C1=CC=CC=C1)[C@@H](C(N1CCC2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)=O)NC(OC(C)(C)C)=O | C28H37BN2O5
reactant | 4-chloro-2-pyrimidinamine | 265 mg | ClC1=NC(=NC=C1)N | C4H4ClN3
reactant | sodium carbonate | 2M, 2.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine) palladium | 16 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | tert-butyl{(1S)-2-[5-(2-aminopyrimidine-4-yl)-2,3-dihydro-1H-indol-1-yl ]-1-benzyl-2-oxoethyl}carbamate | 507 mg | C(C)(C)(C)OC(N[C@H](C(=O)N1CCC2=CC(=CC=C12)C1=NC(=NC=C1)N)CC1=CC=CC=C1)=O | C26H29N5O3
